US07678823B2
1-(2-Oxo-2-phenyl-ethyl)-3,4-dihydro-1H-naphthalen-2-one (3)
A solution of phenacylbromide (5.21 g, 26.1 mmol) in toluene (16 mL) was added over 15 minutes to a boiling, stirred solution of 1-(3,4-dihydro-2-naphthyl)pyrrolidine (5.21 g, 26.2 mmol) in toluene (17 mL). The reaction was refluxed 3 hours, diluted with water (15 mL) and refluxed for 4 hours then cooled. The layers were separated and the aqueous phase was extracted with toluene and dried over MgSO4 and concentrated. The material was purified by MPLC using a gradient from 0 to 20% ethyl acetate/hexanes to afford 4.85 g (70% yield) title product as a yellow oil.

reactant | phenacylbromide | 26.1 mmol, 5.21 g | C(C(=O)C1=CC=CC=C1)Br | C8H7BrO
reactant | 1-(3,4-dihydro-2-naphthyl)pyrrolidine | 26.2 mmol, 5.21 g | C1=C(CCC2=CC=CC=C12)N1CCCC1 | C14H17N
reactant | water | 15 mL | O | H2O
solvent | toluene | 16 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 17 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(2-Oxo-2-phenyl-ethyl)-3,4-dihydro-1H-naphthalen-2-one | 4.85 g, 70% yield | O=C(CC1C(CCC2=CC=CC=C12)=O)C1=CC=CC=C1 | C18H16O2
